US06066720
7-{[(Dimethylamino)methylidene]amino}-3-(β-D-ribofuranosyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine (11).
100 mg (0.37 mmol) of 7-amino-3-β-D-ribofuranosyl-(3H)-1,2,3-triazolo[4,5-d]pyrimidine are left to stir overnight, at room temperature, in 2 ml of dry DMF and 0.25 ml (1.85 mmol) of N,N-dimethylformamide dimethyl acetal. 4 ml of methanol is then added to this reaction mixture. After having been stirred for a further 2 hours, the mixture is evaporated to dryness, and the residue is coevaporated with toluene and then chromatographed on silica gel. (Column: 3×20 cm, eluent CH2Cl2 /MeOH 98:2-90:10). 0.06 g (52%) of a colorless, glassy solidified substance is obtained in the main zone. TLC (silica gel, CH2Cl2 /MeOH=9:1): Rf =0.25 UV λmax (ε)=235, 325.

reactant | 7-amino-3-β-D-ribofuranosyl-(3H)-1,2,3-triazolo[4,5-d]pyrimidine | 0.37 mmol, 100 mg | NC=1C2=C(N=CN1)N(N=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C9H12N6O4
reactant | N,N-dimethylformamide dimethyl acetal | 1.85 mmol, 0.25 ml | COC(N(C)C)OC | C5H13NO2
reactant | methanol | 4 ml | CO | CH4O
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 7-{[(Dimethylamino)methylidene]amino}-3-(β-D-ribofuranosyl)-3H-1,2,3-triazolo[4,5-d]pyrimidine | CN(C)C=NC=1C2=C(N=CN1)N(N=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO | C12H17N7O4
